US09227963B2
1-(tricyclo[3.3.1.13,7]dec-2-ylmethyl)-4-iodo-1H-pyrazole
The title compound was prepared by substituting EXAMPLE 10A for 1-adamantanemethanol and 4-iodopyrazole for 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole in EXAMPLE 2A.

reactant | 1-adamantanemethanol | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | 4-iodopyrazole | IC=1C=NNC1 | C3H3IN2
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1=NNC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H19BN2O2
product | 1-(tricyclo[3.3.1.13,7]dec-2-ylmethyl)-4-iodo-1H-pyrazole | C12C(C3CC(CC(C1)C3)C2)CN2N=CC(=C2)I | C14H19IN2
